US09314025B2
Step B: Preparation of 1,3-diphenyl 2-(3,5-dimethoxyphenyl)propanedioate
To a solution of lithium bis(trimethylsilyl)amide (400 mL, 1M in tetrahydrofuran obtained commercially from Aldrich Chem. Co.) was added a solution of 3,5-dimethoxybenzeneacetic acid phenyl ester (53.1 g) in tetrahydrofuran (65 mL) dropwise over 20 min while cooling in a dry ice bath at −70° C. The resulting slurry was stirred at dry ice temperature for 45 min. Phenyl chloroformate (26 mL) was added all at once followed by 50 mL of tetrahydrofuran. The resulting thick slurry was stirred for 2.5 h at 0° C. while cooling in an ice bath before quenching with diluted aqueous HCl (50 mL of conc. HCl diluted to 150 mL with water). The bulk of tetrahydrofuran was removed under vacuum and diethyl ether (550 mL) and water (80 mL) were added. The aqueous layer was separated and extracted with diethyl ether (50 mL). The combined ether layers were dried over magnesium sulfate and concentrated under vacuum to yield a crude solid which was stirred with hexane (250 mL) for 24 h. The solid was then collected by filtration, washed with hexane (100 mL), and vacuum dried to yield 62 g of the title compound. 1H NMR (CDCl3) δ 7.37 (t, 2H), 7.26 (q, 1H), 7.13 (d, 2H), 6.73 (s, 2H), 6.45 (s, 1H), 5.02 (s, 1H), 3.82 (s, 6H).

reactant | 3,5-dimethoxybenzeneacetic acid phenyl ester | 53.1 g | C1(=CC=CC=C1)OC(CC1=CC(=CC(=C1)OC)OC)=O | C16H16O4
reactant | dry ice | C(=O)=O | CO2
reactant | Phenyl chloroformate | 26 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | hexane | 250 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 65 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1,3-diphenyl 2-(3,5-dimethoxyphenyl)propanedioate | 62 g | COC=1C=C(C=C(C1)OC)C(C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1 | C23H20O6
